US08877782B2
1-Methyl-2′-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-1,2,3,6-tetrahydro-[4,4′]bipyridinyl
As described for example 4, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (135 mg, 0.72 mmol) was converted using 1′-methyl-1′,2′,3′,6′-tetrahydro-1H-[4,4′]bipyridinyl-2-one instead of 2-hydroxy-5-trifluoromethylpyridine to the title compound (SiO2, heptane:ethyl acetate:methanol=95:5:0 to 0:80:20, 45 mg, 17%) which was obtained as a yellow oil. MS: m/e=362.3 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 0.72 mmol, 135 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 1′-methyl-1′,2′,3′,6′-tetrahydro-1H-[4,4′]bipyridinyl-2-one | CN1CCC(=CC1)C1=CC(NC=C1)=O | C11H14N2O
product | 1-Methyl-2′-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-1,2,3,6-tetrahydro-[4,4′]bipyridinyl | 45 mg, 17% | CN1CCC(=CC1)C1=CC(=NC=C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C22H23N3O2
